US06166006
In ethanol (50 ml) was dissolved 2-(N-methyl-N-(4-nitrobenzyl)amino)-1,3-propanediol (2.9 g), and catalytic reduction was carried out with 5% palladium carbon (0.15 g) at room temperature for 2 hours. The catalyst was filtered off, and the solvent of the filtrate was evaporated. The residue was purified with silica gel column (methanol/triethylamine/ethyl acetate) to give 2-(N-(4-aminobenzyl)-N-methylamino)-1,3-propanediol (0.6 g) as pale yellow amorphous.

reactant | 2-(N-methyl-N-(4-nitrobenzyl)amino)-1,3-propanediol | 2.9 g | CN(CC1=CC=C(C=C1)[N+](=O)[O-])C(CO)CO | C11H16N2O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.15 g | [C].[Pd]
product | 2-(N-(4-aminobenzyl)-N-methylamino)-1,3-propanediol | 0.6 g | NC1=CC=C(CN(C)C(CO)CO)C=C1 | C11H18N2O2
